// Gold smoke testbench for timer-based ADPLL.
simulator lang=spectre
global 0

ahdl_include "adpll_timer_ref.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0.0

Vref (ref_clk 0) vsource type=pulse val0=0 val1=0.9 period=20n width=10n rise=200p fall=200p

IDUT (vdd vss ref_clk fb_clk dco_clk vctrl_mon lock) adpll_timer_ref \
    div_ratio=8 f_center=760e6 freq_step_hz=5e6 f_min=500e6 f_max=1.2e9 \
    code_min=0 code_max=63 code_center=32 code_init=40 \
    tedge=1n lock_tol=12n lock_count_target=4

tran tran stop=5u maxstep=5n
save ref_clk fb_clk lock vctrl_mon
